US06737391B2
(R,R)-N-[4-(dimethylamino)salicylidene]-N′-(4-hydroxysalicylidene)-1,2-cyclohexanediamine
To a solution of 2.5 g (9.56 mmol) (R,R)-N-mono(4-dimethylaminosalicylidene)-1,2-cyclohexanediamine in 225 ml of ethanol is added dropwise at room temperature over the course of 45 minutes a solution of 1.321 g (9.56 mmol) 2,4-dihydroxybenzaldehyde in 225 ml ethanol. The reaction solution is heated at 60° C. for 4 h. After cooling to room temperature the resultant reddish brown solution is concentrated to dryness. The crude product (ca. 5 g) is resolved by column chromatography (ethyl acetate/methanol 9:1). Yield: 1,09 g (300%), yellowish orange solid.

reactant | (R,R)-N-mono(4-dimethylaminosalicylidene)-1,2-cyclohexanediamine | 9.56 mmol, 2.5 g | CN(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N)=CC1)O)C | C15H23N3O
reactant | 2,4-dihydroxybenzaldehyde | 9.56 mmol, 1.321 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
solvent | ethanol | 225 ml | C(C)O | C2H6O
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | (R,R)-N-[4-(dimethylamino)salicylidene]-N′-(4-hydroxysalicylidene)-1,2-cyclohexanediamine | CN(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N=CC=2C(O)=CC(=CC2)O)=CC1)O)C | C22H27N3O3
